US06821965B1
3-(6-chloropyrid-3-ylcarbonylamino)-4-methyl-N-(3-morpholinophenyl)benzamide
Using an analogous procedure to that described in Example 33, 6-chloropyrid-3-ylcarbonyl chloride was reacted with 3-amino-4-methyl-N-(3-morpholinophenyl)benzamide to give the title compound; NMR Spectrum: (DMSOd6) 2.3 (s, 3H), 3.05 (t, 4H), 3.75 (t, 4H), 6.65-6.75 (m, 1H), 7.18 (t, 1H), 7.25-7.3 (m, 1H), 7.3-7.5 (m, 2H), 7.7 (d, 1H), 7.75-7.85 (m, 1H), 7.97 (s, 1H), 8.35-8.45 (m, 1H), 9.0 (d, 1H), 10.0-10.04 (s, 1H), 10.26-10.29 (s, 1H); Mass Spectrum: M+H+ 451.

reactant | 6-chloropyrid-3-ylcarbonyl chloride | ClC1=CC=C(C=N1)C(=O)Cl | C6H3Cl2NO
reactant | 3-amino-4-methyl-N-(3-morpholinophenyl)benzamide | NC=1C=C(C(=O)NC2=CC(=CC=C2)N2CCOCC2)C=CC1C | C18H21N3O2
product | 3-(6-chloropyrid-3-ylcarbonylamino)-4-methyl-N-(3-morpholinophenyl)benzamide | ClC1=CC=C(C=N1)C(=O)NC=1C=C(C(=O)NC2=CC(=CC=C2)N2CCOCC2)C=CC1C | C24H23ClN4O3
